US04824848
7-(4-Fluorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 1-(4-fluorobenzyl)-6-hydrazino-3-propyluracil (1.5 g, 5.1 mM) and methyl isothiocyanate (1.2 ml, 17 mM) in DMF (20 ml) was heated at 120° C. for 24 hours. To the solution was added 50% methanol (10 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/methanol/water gave pale yellow crystals (0.62 g, 36%), m.p. 262°-265° C.

reactant | 1-(4-fluorobenzyl)-6-hydrazino-3-propyluracil | 5.1 mM, 1.5 g | FC1=CC=C(CN2C(=O)N(C(=O)C=C2NN)CCC)C=C1 | C14H17FN4O2
reactant | methyl isothiocyanate | 17 mM, 1.2 ml | CN=C=S | C2H3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-(4-Fluorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.62 g, 36% | FC1=CC=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCC)=O)C=C1 | C16H18FN5O2
